US08729271B2
To a solution of (6-bromo-5-fluoropyridin-2-yl)methyl acetate (240 mg) in methanol (2.50 mL) was added an aqueous solution of 1M potasium carbonate (1.64 mL) and the mixture was stirred at room temperature for 20.5 hr. After the solvent was distilled off under reduced pressure, water was added, followed by exraction with chloroform. The organic phase was separated out and the solvent was distilled off under reduced pressure to afford (6-bromo-5-fluoropyridin-2-yl)methanol (215 mg) as the residue.

reactant | (6-bromo-5-fluoropyridin-2-yl)methyl acetate | 240 mg | C(C)(=O)OCC1=NC(=C(C=C1)F)Br | C8H7BrFNO2
reactant | potasium carbonate | 1M, 1.64 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2.50 mL | CO | CH4O
product | (6-bromo-5-fluoropyridin-2-yl)methanol | 215 mg | BrC1=C(C=CC(=N1)CO)F | C6H5BrFNO
